US06900215B2
A suspension of 2-bromo-6-fluorobenzonitrile (2.50 g, 12.5 mmol), potassium fluoride (2.40 g, 41.3 mmol) and 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (4.67 g, 17.5 mmol) in tetrahydrofuran (50 ml) was degassed with nitrogen for 30 min. Tris(dibenzylideneacetone)dipalladium(0) and tri-tert-butylphosphine (0.2M solution in 1,4-dioxane, 3.7 ml) were added and the mixture stirred at ambient temperature for 15 min then at 50° C. for 18 h. After cooling to ambient temperature, the resulting dark suspension was poured onto 0.5M sodium hydroxide solution (500 ml) and stirred vigorously for 2 h. The dark solid was collected by filtration, washed with water (100 ml) and isohexane (50 ml) and left to air dry which gave 3,2′-difluoro-5′-nitrobiphenyl-2-carbonitrile as a brown/black solid (3.25 g, 100%): δH (360 MHz, CDCl3) 7.32-7.44 (3H, m), 7.71-7.77 (1H, m), 8.35-8.41 (2H, m). 3,2′-Difluoro-5′-nitrobiphenyl-2-carbonitrile (3.25 g, 12.5 mmol) in tetrahydrofuran (20 ml) and ethanol (20 ml) was treated with tin(II) chloride dihydrate (9.86 g, 43.8 mmol) and the mixture left to stir at ambient temperature for 18 h. The solvent was evaporated and the residue stirred with 2N sodium hydroxide solution (40 ml) for 2 h. The resulting suspension was diluted with water (100 ml) and extracted with dichloromethane (3×200 ml). The combined organics were washed with water (200 ml), brine (200 ml), dried over anhydrous sodium sulfate, filtered and evaporated to give 5′-amino-3,2′-difluorobiphenyl-2-carbonitrile as a brown solid (2.87 g, 100%): δH (360 MHz, CDCl3) 3.74 (2H, s), 6.66-6.75 (2H, m), 7.01 (1H, dd, J 9 and 9), 7.19-7.30 (2H, m), 7.59-7.65 (1H, m).

reactant | 2-bromo-6-fluorobenzonitrile | 12.5 mmol, 2.50 g | BrC1=C(C#N)C(=CC=C1)F | C7H3BrFN
reactant | potassium fluoride | 41.3 mmol, 2.40 g | [F-].[K+]
reactant | 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 17.5 mmol, 4.67 g | FC1=C(C=C(C=C1)[N+](=O)[O-])B1OC(C(O1)(C)C)(C)C | C12H15BFNO4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3,2′-difluoro-5′-nitrobiphenyl-2-carbonitrile | 3.25 g, 100% | FC1=C(C(=CC=C1)C1=C(C=CC(=C1)[N+](=O)[O-])F)C#N | C13H6F2N2O2
